US08211890B2
(1S)-1-{(2S,5R)-5-[(6,7-dihydro-[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)-amino]-tetrahydro-pyran-2-yl}-2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethanol
Starting from (1S)-1-((2S,5R)-5-amino-tetrahydro-pyran-2-yl)-2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethanol (0.1 g, 0.33 mmol, prepared according to WO 2006/032466) and 6,7-dihydro-[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde (0.06 g, 1 eq.; prepared according to WO 2007/071936), and using the procedure of Example 1, the title compound was obtained as a colourless oil (0.008 g, 8% yield). The compound was purified by CC (DCM-MeOH 93-7 containing 0.7% aq. NH4OH).

reactant | (1S)-1-((2S,5R)-5-amino-tetrahydro-pyran-2-yl)-2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethanol | 0.33 mmol, 0.1 g | N[C@@H]1CC[C@H](OC1)[C@H](CC1=CC=NC2=CC=C(N=C12)OC)O | C16H21N3O3
reactant | 6,7-dihydro-[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | 0.06 g, 1 eq. | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
product | (1S)-1-{(2S,5R)-5-[(6,7-dihydro-[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)-amino]-tetrahydro-pyran-2-yl}-2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethanol | N1=NC(=CC2=C1OCCO2)CN[C@@H]2CC[C@H](OC2)[C@H](CC2=CC=NC1=CC=C(N=C21)OC)O | C23H27N5O5
